US05919793
A mixture of 1-(benzyloxy)-4-(2-methoxyethoxy)benzene (180 g), ethanol (2000 ml) and palladium on carbon catalyst (20 g) was stirred under an atmosphere of hydrogen, at room temperature and atmospheric pressure. After the theoretical quantity of hydrogen had been consumed, the reaction mixture was filtered. The filtrate was evaporated to give a solid which was crystallised from a mixture of ethyl acetate and n-hexane to give 4-(2-methoxyethoxy)phenol as a solid (94.7 g) m.p. 97.9° C.; microanalysis, found: C, 64.3%; H, 7.4%; C9H12O3 requires: C, 64.3%; H, 7.2%; NMR: 3.35(3H,s), 3.6(2H,m), 3.95(2H,m), 6.7(4H,m) and 8.9(1H,s); m/z 169(M+H).

reactant | 1-(benzyloxy)-4-(2-methoxyethoxy)benzene | 180 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCOC | C16H18O3
catalyst | palladium on carbon | 20 g | [Pd] | Pd
solvent | ethanol | 2000 ml | C(C)O | C2H6O
product | 4-(2-methoxyethoxy)phenol | 94.7 g | COCCOC1=CC=C(C=C1)O | C9H12O3
